US07872009B2
Step 5: 2-(1-(tert-butyldimethylsilyloxy)cyclobutyl)-1-(2-fluoro-5-neopentylpyridin-3-yl)ethanol
2,2,6,6-tetramethylpiperidine (13.0 ml, 76.5 mmol) was dissolved in 500 ml THF and cooled to −78° C. Butyllithium (26.8 ml, 67.0 mmol) was added over the period of 10 min and the reaction was allowed to warm up to 0° C. and kept there for 3 min. The mixture was cooled back to −78° C. and a solution of 2-fluoro-5-neopentylpyridine (8.000 g, 47.8 mmol) in 10 ml THF was added over the period of 30 min. The mixture was stirred for 20 min at the same temperature and a solution of 2-(1-(tert-butyldimethylsilyloxy)cyclobutyl) acetaldehyde (19.7 g, 86.1 mmol) in 25 ml THF was added over the period of 20 min. The reaction was stirred for 15 min at the same temperature and hydrolyzed with 200 ml of H2O. The mixture was allowed to warm up to room temp and extracted 2 times with 1 L EtOAc (each). The combined organic extracts were dried over MgSO4 and evaporated. The crude material was used without further purification. MS found 396.2.

reactant | 2,2,6,6-tetramethylpiperidine | 76.5 mmol, 13.0 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | Butyllithium | 67.0 mmol, 26.8 ml | C(CCC)[Li]
reactant | 2-fluoro-5-neopentylpyridine | 47.8 mmol, 8.000 g | FC1=NC=C(C=C1)CC(C)(C)C | C10H14FN
reactant | 2-(1-(tert-butyldimethylsilyloxy)cyclobutyl) acetaldehyde | 86.1 mmol, 19.7 g | [Si](C)(C)(C(C)(C)C)OC1(CCC1)CC=O | C12H24O2Si
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | H2O | 200 ml | O | H2O
product | 2-(1-(tert-butyldimethylsilyloxy)cyclobutyl)-1-(2-fluoro-5-neopentylpyridin-3-yl)ethanol | [Si](C)(C)(C(C)(C)C)OC1(CCC1)CC(O)C=1C(=NC=C(C1)CC(C)(C)C)F | C22H38FNO2Si
